US05580888
5-Bromo-2-methoxyphenol
A solution of 5-bromo-2-methoxybenzaldehyde (100 g, 0.46 mol) in CHCl3 (150 ml) was cooled with an ice bath and 3-chloroperoxybenzoic acid (50-60% purity) (146 g, 0.51 mol) in CHCl3 (1000 ml) added. The reaction mixture was allowed to warm slowly to room temperature and stirred for 72 h. The white solid was filtered off and the filtrate concentrated in vacuo. The residue was dissolved in Et2O (200 ml) and washed with 1M sodium sulphite solution (2×200 ml) then NaHCO3 [half saturated] (3×200 ml). The ether layer was washed with 10% aqueous NaOH (3×100 ml) and the combined basic extract was acidified with concentrated hydrochloric acid and extracted with Et2O (3×100 ml). The combined organic extract was dried (MgSO4) and florisil (10 g) filtered and the solvent removed under reduced pressure to give the title compound (90 g) as a pale brown solid.

reactant | 5-bromo-2-methoxybenzaldehyde | 0.46 mol, 100 g | BrC=1C=CC(=C(C=O)C1)OC | C8H7BrO2
reactant | 3-chloroperoxybenzoic acid | 0.51 mol, 146 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | CHCl3 | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 1000 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-Bromo-2-methoxyphenol | 90 g | BrC=1C=CC(=C(C1)O)OC | C7H7BrO2
